US06455507B1
An ethanolic solution of 2-bromo-6-chloro-5-methylthio-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole (0.057 g, 0.09 mmol) was deprotected in a modification of General Procedure VI with 0.044 g (0.41 mmol) of sodium carbonate in 0.5 ml of water. After stirring 1.5 h at ambient temperature, the mixture was treated as described in General Procedure VI. The product was dried overnight in vacuo to give 2-bromo-6-chloro-5-methylthio-1-beta-D-ribopyranosyl-1H-benzimidazole (0.042 g, 0.08 mmol, 98% yield). 1H NMR (DMSO-d6) δ7.79 (s, 1H), 7.49 (s, 1H), 5.61-5.59 (d, 1H), 5.16-5.12 (m, 2H), 4.86-4.84 (d, 1H), 3.98 (m, 3H), 3.68-3.65 (m, 2H), 2.49 (s, 3H).

reactant | 2-bromo-6-chloro-5-methylthio-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 0.09 mmol, 0.057 g | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)SC)Cl | C19H20BrClN2O7S
reactant | sodium carbonate | 0.41 mmol, 0.044 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 0.5 ml | O | H2O
product | 2-bromo-6-chloro-5-methylthio-1-beta-D-ribopyranosyl-1H-benzimidazole | 0.08 mmol, 0.042 g, 98% yield | BrC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O)CO1)C=C(C(=C2)SC)Cl | C13H14BrClN2O4S
